US09233979B2
A solution of (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (900 mg, 1.671 mmol) and DIEA (0.584 mL, 3.34 mmol) in THF (16 mL) at 0° C. was treated drop-wise with a solution of acetyl chloride (0.131 mL, 1.838 mmol) in THF (0.5 mL). The reaction was stirred at 0° C. for 10 min, then allowed to warm to room temperature and stirred for 1 h. The solvent was evaporated in vacuo and purified by flash chromatography (0-30% EtOAc/DCM) to afford (R)—N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide. MS ESI calc'd. For C36H32N6O2 [M+1]+ 581. found 581.

reactant | (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 1.671 mmol, 900 mg | NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N6O
reactant | DIEA | 3.34 mmol, 0.584 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 1.838 mmol, 0.131 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)—N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide | C1(=CC=CC=C1)[C@@H](C)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C)=O)=O | C36H32N6O2
